US03952012
6.4 Grams (0.02 mole) of ethyl 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetate is dissolved in 100 ml. of dimethyl sulfoxide (DMSO) and added to a slurry of 0.48 g. (0.02 mole) of sodium hydride in approximately 30 ml. of DMSO. The mixture is stirred for 30 mins. before 2.84 g. (0.02 mole) of methyl iodide is added. Stirring is continued for 15 mins. The reaction mixture is then poured into water and the precipitate filtered off and recrystallized from 2-propanol to yield ethyl 5 -(p-chlorobenzoyl)-1,4,α-trimethylpyrrole-2-acetate, m.p. 88°-90°C.

reactant | ethyl 5-(p-chlorobenzoyl)-1,4-dimethylpyrrole-2-acetate | 0.02 mole | ClC1=CC=C(C(=O)C2=C(C=C(N2C)CC(=O)OCC)C)C=C1 | C17H18ClNO3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | sodium hydride | 0.02 mole | [H-].[Na+]
reactant | methyl iodide | 0.02 mole | CI | CH3I
solvent | water | O | H2O
product | ethyl 5 -(p-chlorobenzoyl)-1,4,α-trimethylpyrrole-2-acetate | ClC1=CC=C(C(=O)C2=C(C=C(N2C)C(C(=O)OCC)C)C)C=C1 | C18H20ClNO3
